US04607051
m-fluorophenol and 4-bromoanisole yield p-(m-fluorophenoxy)anisole of b.p. 130°-131° C./0.2 Torr and reaction with hydrobromic acid/acetic acid yields p-(m-fluorophenoxy)phenol; m.p. 53°-55° C.

reactant | p-(m-fluorophenoxy)anisole | FC=1C=C(OC2=CC=C(C=C2)OC)C=CC1 | C13H11FO2
reactant | hydrobromic acid acetic acid | Br.C(C)(=O)O
product | p-(m-fluorophenoxy)phenol | FC=1C=C(OC2=CC=C(C=C2)O)C=CC1 | C12H9FO2
